US09079880B2
To a stifling solution of (R)-2-(3-methoxycarbonyl-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (830 mg, 2.582 mmol) in methylene chloride (30 mL) at room temperature add 4 M HCl in dioxane solution (12.91 mL, 51.64 mmol) and stir the reaction at ambient temp for 18 h. Concentrate the solution in vacuo at 35° C. to remove most solvent. Dilute and stir the dioxane suspension of solids with Et2O (50 mL) and hexane (50 mL). Filter the solid washing with Et2O then hexane and dry in vacuo under P2O5 to give (R)-3-pyrrolidin-2-yl-benzoic acid methyl ester HCl as a solid (577 mg).

reactant | (R)-2-(3-methoxycarbonyl-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.582 mmol, 830 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C1=CC(=CC=C1)C(=O)OC | C17H23NO4
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 51.64 mmol, 12.91 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-pyrrolidin-2-yl-benzoic acid methyl ester HCl | 577 mg | Cl.COC(C1=CC(=CC=C1)[C@@H]1NCCC1)=O | InChI=1S/C12H15NO2.ClH/c1-15-12(14)10-5-2-4-9(8-10)11-6-3-7-13-11;/h2,4-5,8,11,13H,3,6-7H2,1H3;1H/t11-;/m1./s1
